US08026085B2
Experimental description: 150 mg ibuprofen methyl ester was dissolved in 1.4 mL ethanol and added to 150 mL potassium phosphate buffer pH 8.0. P450BM3 was added to the mixture at a final concentration of 10 μM. The mixture was split in 4 mL-aliquots into 15 mL scintillation vials equipped with a stir bar. 500 μL 10 mM NADPH in KPi buffer was added to each vial and stirred for 2 minutes. 500 μL cofactor regeneration solution containing 500 mM glucose-6-phosphate and 10 units/mL glucose-6-phosphate dehydrogenase were then added to each vial. The resulting mixtures were stirred at room temperature. After 48 hours, the reaction mixtures were joined together and extracted with chloroform (3×50 mL). The organic phase was then dried over magnesium sulfate (MgSO4) and evaporated in vacuo. Purification of the resulting oil by silica gel chromatography (5-40% ethyl acetate/hexane) afforded the activated product (methyl 2-(4′-(1″-hydroxy-2″-methylpropyl)phenyl)propanoate, 73 mg). 15 mg (0.06 mmol) of activated product was dissolved in 2 mL dry dichloromethane (CH2Cl2) and a catalytic amount (4 drops) of ethanol was added to the solution. The solution was cooled to −78° C. (dry ice) and then 11 μL DAST (0.72 mmol) was added. The reaction was stirred in dry ice for 16 hours. The reaction mixture was then added with 5 mL saturated sodium bicarbonate (NaHCO3) and extracted with dichloromethane (3×15 mL). The organic phase was then dried over magnesium sulfate (MgSO4) and evaporated in vacuo. Purification of the resulting oil by silica gel chromatography (0-30% ethyl acetate/hexane) afforded the fluorinated product, methyl 2-(4′-(1″-fluoro-2″-methylpropyl)phenyl)propanoate (10 mg, 65% yield, colorless oil). 1H-NMR (300 MHz, CDCl3): δ 0.84 (d, J=6.9 Hz, 3H, CH3), δ 1.01 (d, J=6.9 Hz, 3H, —CH3), δ 1.49 (d, J=8.7 Hz, 3H, CH3), δ 2.05-2.08 (m, 1H), δ 3.66 (s, 3H, OCH3), δ 3.73 (q, J=7.5 Hz, 1H), δ 5.07 (dd, J=40.0, J=6.9 Hz, 1H, CHF), δ 7.25 (m, 4H); 13C-NMR (75 MHz, CDCl3): δ 15.5, 17.82 (d), 18.54 (d), 34.48 (d, J: 85.7 Hz), 45.37, 52.31, 99.3 (d, J=174 Hz), 175.6; 19F-NMR (282 MHz, CDCl3): δ −179.8 (m). HRMS (EI+): exact mass calculated for C14H19FO2 requires m/z 238.1369, found 238.1367.

reactant | ibuprofen methyl ester | 150 mg | COC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C14H20O2
reactant | potassium phosphate | 150 mL, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
product | methyl 2-(4′-(1″-hydroxy-2″-methylpropyl)phenyl)propanoate | OC(C(C)C)C1=CC=C(C=C1)C(C(=O)OC)C | C14H20O3
